US07897762B2
5-(Chloromethyl)-N4-ethyl-N2-methoxy-N2-methylpyridine-2,4-diamine (4.3 g, 18.7 mmol, from Example A19) and 4-fluoro-3-nitro-phenylamine (3 g, 19 mmol) were combined in pyridine (50 ml) by the method of Example A4 to provide N4-ethyl-5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2-methylpyridine-2,4-diamine (5.6 g, 85% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.65 (s, 1 H), 7.63 (s, 1 H), 7.34-7.29 (m, 1 H), 7.23-7.21 (m, 1H), 7.02-7.6.98 (m, 1 H), 6.84 (s, 1 H), 6.06 (s, 1 H), 4.18 (d, J=3.2 Hz, 2 H), 3.71 (s, 3 H), 3.31 (s, 3 H), 3.32 (q, J=7.2 Hz, 2 H), 1.18 (t, J=7.2 Hz, 3 H); MS (ESI) m/z: 350.1 [M+H]+.

reactant | 5-(Chloromethyl)-N4-ethyl-N2-methoxy-N2-methylpyridine-2,4-diamine | 18.7 mmol, 4.3 g | ClCC=1C(=CC(=NC1)N(C)OC)NCC | C10H16ClN3O
reactant | 4-fluoro-3-nitro-phenylamine | 19 mmol, 3 g | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N4-ethyl-5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2-methylpyridine-2,4-diamine | 5.6 g, 85% yield | C(C)NC1=CC(=NC=C1CNC1=CC(=C(C=C1)F)[N+](=O)[O-])N(C)OC | C16H20FN5O3
